US06878733B1
A mixture of 2-aminoacetophenone hydrochloride (1 equiv.), ethyl isobutylacetate (1.2 equiv.) and sodium acetate (2.4 equiv.) in H2O was stirred at 100° C. for 18 hours and then cooled to room temperature. The aqueous layer was decanted off and the oil was dissolved in ethyl acetate. It was then washed with water and brine and then dried to give (93%) of 2-isopropyl-4-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester as a red brown oil.

reactant | 2-aminoacetophenone hydrochloride | 1 equiv. | Cl.NCC(=O)C1=CC=CC=C1
reactant | ethyl isobutylacetate | 1.2 equiv. | C(C(C)C)CC(=O)OCC | C8H16O2
reactant | sodium acetate | 2.4 equiv. | C(C)(=O)[O-].[Na+]
solvent | H2O | O | H2O
product | 2-isopropyl-4-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | 93% | C(C)OC(=O)C1=C(NC=C1C1=CC=CC=C1)C(C)C | C16H19NO2
